US05116848
Preparation of N-(2,6-Diethylphenyl)-N'-(2,2-diphenylethyl)urea
The title compound, mp 200°-201° C., was prepared from 2,6-diethylphenyl isocyanate and 2,2-diphenylethylamine according to the method of Example 1.

reactant | 2,6-diethylphenyl isocyanate | C(C)C1=C(C(=CC=C1)CC)N=C=O | C11H13NO
reactant | 2,2-diphenylethylamine | C1(=CC=CC=C1)C(CN)C1=CC=CC=C1 | C14H15N
product | N-(2,6-Diethylphenyl)-N'-(2,2-diphenylethyl)urea | C(C)C1=C(C(=CC=C1)CC)NC(=O)NCC(C1=CC=CC=C1)C1=CC=CC=C1 | C25H28N2O
